US08217043B2
a) 1-Amino-5-fluoro-1H-indole-2-carboxylic acid ethyl ester
Prepared according to the N-amination condition used in Example 18 step a) from 5-fluoro-1H-indole-2-carboxylic acid ethyl ester (prepared according to literature: J. Chem. Soc. 1955, 1283-1284), ammonium chloride, ALIQUAT 336, sodium hydroxide, concentrated ammonium hydroxide solution and 10% solution of NaOCl. ESI (m/z): 223 (M+H)+.

reactant | 5-fluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)F | C11H10FNO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | NaOCl | [O-]Cl.[Na+]
catalyst | ALIQUAT 336 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 1-Amino-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)F)N | C11H11FN2O2
